US07230020B2
Reaction of 4-chloro-2-methyl-benzothiazol-5-ylamine (50 mg, 0.25 mmol) in THF (1.5 mL) with 4-chlorophenylacetyl chloride (65 mg, 0.30 mmol) in presence of triethylamine (42 μL, 0.30 mmol) according to method A gave N-(4-chloro-2-methyl-benzothiazol-5-yl)-2-(4-chloro-phenyl)-acetamide (65 mg, 0.19 mmol, 80% yield) as a white powder after crystallisation in hexane/DCM.

reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.25 mmol, 50 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | 4-chlorophenylacetyl chloride | 0.30 mmol, 65 mg | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-(4-chloro-2-methyl-benzothiazol-5-yl)-2-(4-chloro-phenyl)-acetamide | 0.19 mmol, 65 mg, 80% yield | ClC1=C(C=CC2=C1N=C(S2)C)NC(CC2=CC=C(C=C2)Cl)=O | C16H12Cl2N2OS
